### PR TITLE
feat: query complexity model for algorithms

### PR DESCRIPTION
**Pull request by Shreyas4991**
Generalizing @tannerduve 's free monad take on the query complexity idea. This model of algorithmic complexity provides a lightweight approach to complexity verification of algorithms, similar to #165 

However it offers several improvements over #165  :
1. No explicit ticks needed, so the chances of making mistakes like forgetting to count specific calls is removed.
2. The operations which are counted are made explicit as an inductive type and a model of this type.
3. The model of a query type accepts custom cost structures so long as you can define addition and a 0 operation on them (basically additive monoids suffice).
4. With a notion of reductions between models, this approach is more modular for the algorithm specifier, allowing high level specs of operations which can be translated into simpler query models later. 

~~**Update to the below drawback** : The model requires users to choose a cost for each pure operation upfront by a typeclass instance for a given type of `Cost`. This is a departure from `TimeM`s model. But with custom Cost types with a specific field for `pure`, these costs can be separated from that of calls to queries.~~

One drawback : It is still possible to sneak in free operations inside `pure`. However this is unavoidable in any lightweight monadic approach. A deeply embedded DSL is the only foolproof way to avoid this. Nevertheless this approach removes annotation and review burden and ensures that any actual call to a query will be counted. Thus it is easy to notice when a monadic operation is not being called. 

Zulip Discussion Thread: https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Query.20model.20for.20Algorithms.20complexity.20.3A.20updates/near/569606456

### CODE REVIEW

File: Cslib/Algorithms/QueryModel.lean [hunk 1]
```diff
@@ -0,0 +1,297 @@
...
+query model, free monad, time complexity, merge sort
+-/
+
+namespace Cslib
+
+namespace Algorithms
+
+class Model (QType : Type u → Type u) (Cost : Type) [Add Cost] [Zero Cost] where
+  evalQuery : QType ι → ι
+  cost : QType ι → Cost
```
Comment (eric-wieser) [inline Cslib/Algorithms/QueryModel.lean]: Why not
```suggestion
class Model (QType : Type u → Type u) where
  evalQuery : QType ι → TimeM ι
```

File: Cslib/Foundations/Control/Monad/Free/Effects.lean [hunk 2]
```diff
@@ -346,81 +394,6 @@ lemma run_callCC (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) (k :
 
 end FreeCont
 
-/-- Type constructor for reader operations. -/
-inductive ReaderF (σ : Type u) : Type u → Type u where
-  | read : ReaderF σ σ
```
Comment (eric-wieser) [inline Cslib/Foundations/Control/Monad/Free/Effects.lean:351]: Deleting this seems counter-productive

File: Cslib/Algorithms/QueryModel.lean (hunk 1 above)
Comment (eric-wieser) [reply Cslib/Algorithms/QueryModel.lean]: (or phrased another way; if we want to support different cost types here, presumably we also want to do the same in `TimeM` and `Cost` should become a parameter there)

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: TimeM has a restricted cost model. See my code and comments in the TimeM section

File: Cslib/Algorithms/QueryModel.lean [hunk 3]
```diff
@@ -0,0 +1,297 @@
...
+  | find :  (l : List α) → α → ListOps α ℕ
+  | write : (l : List α) → (i : Fin l.length) →  (x : α) → ListOps α (List α)
+
+
+def List_LinSearch_WorstCase [DecidableEq α] : Model (ListOps α) ℕ where
+  evalQuery q :=
+    match q with
+    | .write l i x => l.set i x
+    | .find l elem =>  l.findIdx (· = elem)
+    | .get l i => l[i]
```
Comment (eric-wieser) [inline Cslib/Algorithms/QueryModel.lean]:
```suggestion
  evalQuery
    | .write l i x => l.set i x
    | .find l elem =>  l.findIdx (· = elem)
    | .get l i => l[i]
```
etc

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 4]
```diff
@@ -0,0 +1,297 @@
...
+-- ALternative def where pure has to be a query
+-- /-- Programs built as the free ~~monad~~ arrow? over `QueryF`. -/
+-- inductive Prog (Q : Type u → Type u) : Type u → Type (u + 1)  where
+--   | pure (q : Q α) : Prog Q α
+--   | seq (p₁ : Prog Q ι) (cont : ι → Prog Q α) : Prog Q α
+
+abbrev Prog Q α := FreeM Q α
+
+instance {Q α} : Coe (Q α) (FreeM Q α) where
+  coe := FreeM.lift
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: This belongs in the file defining FreeM

File: Cslib/Foundations/Control/Monad/Free/Effects.lean (hunk 2 above)
Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Free/Effects.lean:351]: That came from main. I don't use it in this PR. I am just not sure how to get rid of it.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 4 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: Agreed. Do note that the current file has a lot of things that should move to separate files.

File: Cslib/Algorithms/QueryModel.lean [hunk 5]
```diff
@@ -0,0 +1,297 @@
...
+namespace Prog
+
+
+def eval [Add Cost] [Zero Cost]
+  (P : Prog Q α) (M : Model Q Cost) : α :=
+  match P with
+  | .pure x => x
+  | .liftBind op cont  =>
+      let qval := M.evalQuery op
+      eval (cont qval) M
```
Comment (eric-wieser) [inline Cslib/Algorithms/QueryModel.lean]:
```suggestion
def eval [Add Cost] [Zero Cost]
  (P : Prog Q α) (M : Model Q Cost) : α :=
  Id.run <| P.liftM fun x => pure (M.evalQuery i)
```

File: Cslib/Foundations/Control/Monad/Free/Effects.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/Free/Effects.lean:351]: I think "came from main" means "I did a bad merge of main"

File: Cslib/Algorithms/QueryModel.lean (hunk 1 above)
Comment (eric-wieser) [reply Cslib/Algorithms/QueryModel.lean]: Sure, then maybe we should rename `TimeM X` to `CostM C X`, and then define `abbrev TimeM X := CostM Nat X`

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: That is just the writer monad

File: Cslib/Algorithms/QueryModel.lean [hunk 6]
```diff
@@ -0,0 +1,325 @@
...
+--#eval (simpleExample #v[1,2,3,4,5] 5 2).eval VecSort_WorstCase
+--#eval (simpleExample #v[1,2,3,4,5] 5 2).time VecSort_WorstCase
+--#eval (simpleExample #v[1,2,3,4,5] 5 2).time VecSort_CmpSwap
+
+end ArraySort
+
+section VectorLinearSearch
+
+inductive VecSearch (α : Type) : Type → Type  where
+  | compare :  (a : Vector α n) → (i : ℕ) → (val : α) →  VecSearch α Bool
```
Comment (eric-wieser) [inline Cslib/Algorithms/QueryModel.lean]: Why not write these to look more like functions,
```suggestion
  | compare (a : Vector α n) (i : ℕ) (val : α) : VecSearch α Bool
```

File: Cslib/Algorithms/QueryModel.lean [hunk 7]
```diff
@@ -0,0 +1,325 @@
...
+/--
+The array version of the sort operations
+-/
+inductive VecSortOps (α : Type) : Type → Type  where
+  | swap : (a : Vector α n) → (i j : Fin n) → VecSortOps α (Vector α n)
+  | cmp :  (a : Vector α n) → (i j : Fin n) → VecSortOps α Bool
+  | write : (a : Vector α n) → (i : Fin n) → (x : α) → VecSortOps α (Vector α n)
+  | read : (a : Vector α n) → (i : Fin n) → VecSortOps α α
+  | push : (a : Vector α n) → (elem : α) → VecSortOps α (Vector α (n + 1))
+
```
Comment (eric-wieser) [inline Cslib/Algorithms/QueryModel.lean]: This is unsafe, as it lets the algorithm access the underlying data structure. At minimum you need
```suggestion
inductive VecSortOps (VecType : Nat → Type) (α : Type) : Type → Type  where
  | swap : (a : VecType n) → (i j : Fin n) → VecSortOps VecType α (VecType n)
  | cmp : (a : VecType n) → (i j : Fin n) → VecSortOps VecType α Bool
  | write : (a : VecType n) → (i : Fin n) → (x : α) → VecSortOps VecType α (VecType n)
  | read : (a : VecType n) → (i : Fin n) → VecSortOps VecType α α
  | push : (a : VecType n) → (elem : α) → VecSortOps VecType α (VecType (n + 1))
```

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: Good point. I'll get back to this tomorrow noon. A Finvec would be the better option.

Comment (eric-wieser) [reply Cslib/Algorithms/QueryModel.lean]: On second thoughts, this still doesn't help; you can't let the algorithm have access to `a` at all, otherwise it can do `classical if VecType = Vector then cheat else alg`

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: Any monadic dsl will have this issue.

Comment (eric-wieser) [reply Cslib/Algorithms/QueryModel.lean]: I think the issue goes away if the dsl can only access the vector through opaque variable indices?

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: That was my data structure hiding idea. Make the vector opaque. That is, remove the vector from the query and add it to the model. The problem is removing it means we can't write monadic Progs that are recursive on specific subvectors.

Comment (Shreyas4991) [reply Cslib/Algorithms/QueryModel.lean]: Another issue with this idea is that currently the second parameter of the query type is the return type of the operation. If we can't have that, then we can't have the monad structure. Without flexibility on the return type of the query, we lose a lot of flexibility in our queries

File: Cslib.lean [hunk 8]
```diff
@@ -28,7 +30,8 @@ public import Cslib.Computability.Languages.RegularLanguage
 public import Cslib.Foundations.Control.Monad.Free
 public import Cslib.Foundations.Control.Monad.Free.Effects
 public import Cslib.Foundations.Control.Monad.Free.Fold
-public import Cslib.Foundations.Data.FinFun
+public import Cslib.Foundations.Control.Monad.Time
+import Cslib.Foundations.Data.FinFun
```
Comment (chenson2018) [inline Cslib.lean]: Make sure with the move to the module system you now run `lake exe mk_all --module`

File: Cslib/Foundations/Control/Monad/Time.lean [hunk 9]
```diff
@@ -0,0 +1,73 @@
...
+module
+
+public import Mathlib.Control.Monad.Writer
+
+@[expose] public section
+/-!
+# Time Monad
+
+`TimeM` is a monad that tracks execution time alongside computations, using natural numbers
+as a simple cost model. As plain types it is isomorphic to `WriterT Nat Id`.
```
Comment (chenson2018) [inline Cslib/Foundations/Control/Monad/Time.lean]: Can you clarify what you envision happening to this module? If what you are proposing subsumes this, I vote that we replace it outright with the new framework. I think we can make room for a lightweight monadic DSL and Boole's deep embedding, but I don't want to encourage any more fragmentation than that.

Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Time.lean]: This PR largely subsumes TimeM. In principle, because TimeM allows arbitrary (occurrences of) operations to be `checkmarked`, it is more flexible, but as I argued in December, this flexibility is a footgun and a limitation in so many ways. As long as we are systematically counting operations, this model clearly subsumes `TimeM`. 

There is one footgun any monadic DSL will have, namely, sneaking in of computations with `pure`. This is fundamental to a monad. However even here, I have just managed to improve the situation a bit, by adding a notion of `PureCosts` as a typeclass and adding custom `pure` fields in some cost models. As you can see in the `#eval`s as lines 222 and 401, this model can capture how many pure operations are used as well. This breaks the equivalence with `TimeM`'s model of assigning 0 cost to pure, but gives us room for a sanity check as reviewers of code.

Overall I agree with you that this model can entirely replace `TimeM`.

File: Cslib/Algorithms/CircuitProgs.lean [hunk 10]
```diff
@@ -0,0 +1,133 @@
...
+  | .const id _ =>
+      if id ∉ countedIDs then id :: countedIDs else countedIDs
+  | .add id x y =>
+      let s₁ := uniqueIDs x countedIDs
+      let s₂ := uniqueIDs y s₁
+      if id ∉ s₂
+      then
+        id :: s₂
+      else
+        s₂
```
Comment (eric-wieser) [inline Cslib/Algorithms/CircuitProgs.lean]:
```suggestion
      insert id s₂
```

File: Cslib/Algorithms/CircuitProgs.lean [hunk 11]
```diff
@@ -0,0 +1,133 @@
...
+  match q with
+  | .const _ c => 0
+  | .add _ c₁ c₂ => 1 + max (depthOf c₁) (depthOf c₂)
+  | .mul _ c₁ c₂ => 1 + max (depthOf c₁) (depthOf c₂)
+  | .neg _ c => 1 + depthOf c
+
+def uniqueIDs (q : Circuit α β) (countedIDs : List ℕ) : List ℕ :=
+  match q with
+  | .const id _ =>
+      if id ∉ countedIDs then id :: countedIDs else countedIDs
```
Comment (eric-wieser) [inline Cslib/Algorithms/CircuitProgs.lean]:
```suggestion
  | .const id _ => insert id countedIDs
```

File: Cslib/Algorithms/MergeSort/MergeSort.lean [hunk 12]
```diff
@@ -26,65 +27,379 @@ We also provide simple example evaluations of `mergeSort` and its time cost.
...
+    simp only [SortOpsCost.mk.injEq, and_imp]
+    intro ab_comps ab_inserts ab_pures ba_comps ba_inserts ba_pures
+    refine ⟨?_, ?_, ?_⟩
+    all_goals solve_by_elim[Nat.le_antisymm]
+
+
+@[simp, grind]
+def sortModel (α : Type) [LinearOrder α] : Model (SortOps α) SortOpsCost where
+  evalQuery q :=
+    match q with
```
Comment (eric-wieser) [inline Cslib/Algorithms/MergeSort/MergeSort.lean]:
```suggestion
  evalQuery
```

File: Cslib/Foundations/Control/Monad/Time.lean (hunk 9 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/Time.lean]: My opinion here is that we should have a `CostM` (a convenience version of a writer monad with `+` as the monoid operator), and that
```lean
@[simp, grind]
def Prog.time [Add Cost] [Zero Cost] [PureCosts Cost]
  (P : Prog Q α) (M : Model Q Cost) : Cost :=
  match P with
  | .pure _ => PureCosts.pureCost
  | .liftBind op cont =>
      let t₁ := M.cost op
      let qval := M.evalQuery op
      t₁ + (time (cont qval) M)
```
should be replaced by using `FreeM.liftM` into `CostM`. We shouldn't be implementing the lifting logic a second time with a manually-inlined monad.

File: Cslib/Foundations/Control/Monad/Time.lean [hunk 13]
```diff
@@ -0,0 +1,73 @@
...
+
+/-- `TimeM` is (definitionally) the same as the writer monad `WriterT Nat Id`. -/
+abbrev WriterNat (α : Type) := WriterT Nat Id α
+
+/-- Equivalence between `TimeM α` and `WriterT Nat Id α` as plain types. -/
+def equivWriter (α : Type) : TimeM α ≃ WriterNat α where
+  toFun m := (m.ret, m.time)
+  invFun w := ⟨w.1, w.2⟩
+  left_inv m := by cases m; rfl
+  right_inv w := by cases w; rfl
```
Comment (eric-wieser) [inline Cslib/Foundations/Control/Monad/Time.lean]: This is misleading; sure, the types have the same cardinality, but this isomorphism is not canonical; it does not preserve `bind` or `tick`.

Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Time.lean]: This comes from upstream. I am not touching TimeM. I am of the opinion that we can delete the whole file. This model already subsumes everything TimeM does. And TimeM is too thin a wrapper to serve any purpose.

Comment (chenson2018) [reply Cslib/Foundations/Control/Monad/Time.lean]: To clarify, does "upstream" mean #201? I don't believe this is an existing definition in the main branch.

Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Time.lean]: Possible. I don't recall touching TimeM at all. Tbh if we wanted to put this equivalence into CSLib at all, I would just change TimeM to an abbrev.

**Comment by Shreyas4991** [comment]
I plan to remove the circuits stuff and add it to a separate PR.

File: Cslib/Foundations/Control/Monad/Time.lean [hunk 14]
```diff
@@ -0,0 +1,73 @@
...
+
+@[simp] theorem time_of_pure {α} (a : α) : (pure a).time = 0 := rfl
+@[simp] theorem time_of_bind {α β} (m : TimeM α) (f : α → TimeM β) :
+ (TimeM.bind m f).time = m.time + (f m.ret).time := rfl
+@[simp] theorem time_of_tick {α} (a : α) (c : ℕ) : (tick a c).time = c := rfl
+@[simp] theorem ret_bind {α β} (m : TimeM α) (f : α → TimeM β) :
+  (TimeM.bind m f).ret = (f m.ret).ret := rfl
+
+-- this allow us to simplify the chain of compositions
+attribute [simp] Bind.bind Pure.pure TimeM.pure
```
Comment (eric-wieser) [inline Cslib/Foundations/Control/Monad/Time.lean]: Note that this is cursed; I've removed it in #321

File: Cslib/Foundations/Control/Monad/Time.lean (hunk 13 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/Time.lean]: Can you merge master and delete this file? `master` already defines `TimeM` in a different file, let's not repeat it.

Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Time.lean]: Will do. I think this is a relic of #201

**Comment by eric-wieser** [comment]
Please merge master.

**Comment by Shreyas4991** [comment]
> Please merge master.

Just did that a few hours ago

File: Cslib/Foundations/Control/Monad/Time.lean
Comment (eric-wieser) [inline Cslib/Foundations/Control/Monad/Time.lean:1]: This file already exists with a different name, please fix the merge conflict by removing one of the duplicates.

File: Cslib/Foundations/Control/Monad/Free/Effects.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/Free/Effects.lean:351]: This is still deleted

Comment (Shreyas4991) [reply Cslib/Foundations/Control/Monad/Free/Effects.lean:351]: Thanks. I'll undo any changes that are not part of this pr.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 4 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: This comment still applies.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 15]
```diff
@@ -0,0 +1,146 @@
...
+two fields, which respectively define the evaluation and cost of a query.
+-/
+structure Model (QType : Type u → Type u) (Cost : Type)
+  [AddCommMonoid Cost] where
+  /-- Evaluates a query `q : Q ι` to return a result of type `ι` -/
+  evalQuery : QType ι → ι
+  /-- Counts the operational cost of a query `q : Q ι` to return a result of type `Cost`.
+  The cost could represent any desired complexity measure,
+  including but not limited to time complexity -/
+  cost : QType ι → Cost
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: I would strongly advocate for
```suggestion
  /-- Evaluates a query `q : Q ι` to return a result of type `ι` and associated cost of type `Cost` -/
  evalQuery : QType ι → TimeM Cost ι
```

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 16]
```diff
@@ -0,0 +1,146 @@
...
+The evaluation function of a program `P : Prog Q α` given a model `M : Model Q α` of `Q`
+-/
+@[simp, grind]
+def Prog.eval [AddCommMonoid Cost]
+  (P : Prog Q α) (M : Model Q Cost) : α :=
+  Id.run <| P.liftM fun x => pure (M.evalQuery x)
+
+/--
+The cost function of a program `P : Prog Q α` given a model `M : Model Q α` of `Q`.
+The most common use case of this function is to compute time-complexity, hence the name.
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean:101]: Using this argument (which seems reasonable but should probably get zulip consensus), we should generalize `TimeM` to take an arbitrary AddCommMonoid, without renaming it to `CostM`.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 17]
```diff
@@ -0,0 +1,142 @@
...
+    | .mul x y => x * y
+    | .neg x =>  -x
+    | .zero => (0 : ℚ)
+    | .one => (1 : ℚ)
+  cost _ := 1
+
+open Arith in
+def ex1 : Prog (Arith ℚ) ℚ := do
+  let mut x : ℚ ← @zero ℚ
+  let mut y ← @one ℚ
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: The `@`s here look problematic to me.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 18]
```diff
@@ -0,0 +1,142 @@
...
+  let z ← (add (x + y + y) y)
+  let w ← @neg ℚ (←(add z y))
+  add w z
+
+
+--#eval ex1.eval RatArithQuery_NatCost
+--#eval ex1.time RatArithQuery_NatCost
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: Let's not leave behind dead code.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 19]
```diff
@@ -0,0 +1,142 @@
...
+
+
+inductive VecSearch (α : Type) : Type → Type  where
+  | compare (a : Vector α n) (i : ℕ) (val : α) : VecSearch α Bool
+
+
+def VecSearch_Nat [DecidableEq α] : Model (VecSearch α) ℕ where
+  evalQuery q :=
+    match q with
+    | .compare l i x =>  l[i]? == some x
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]:
```suggestion
  evalQuery
    | .compare l i x =>  l[i]? == some x
```
etc, please apply throughout.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 20]
```diff
@@ -0,0 +1,142 @@
...
+  cost q :=
+    match q with
+    | .compare _ _ _ => 1
+
+
+open VecSearch in
+def linearSearchAux (v : Vector α n)
+  (x : α) (acc : Bool) (index : ℕ) : Prog (VecSearch α) Bool := do
+  if h : index ≥ n then
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean:103]: Indents are wrong here

File: CslibTests/QueryModel/ProgExamples.lean [hunk 21]
```diff
@@ -0,0 +1,142 @@
...
+    else
+      linearSearchAux v x false (index + 1)
+
+open VecSearch in
+def linearSearch (v : Vector α n) (x : α) : Prog (VecSearch α) Bool:=
+  linearSearchAux v x false 0
+
+--#eval (linearSearch #v[12,23,31,42,52,4,6] 4).eval VecSearch_Nat
+
+--#eval (linearSearch #v[1,2,3,22, 11, 12, 4,5,6] 4).time VecSearch_Nat
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: More dead code here.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 22]
```diff
@@ -0,0 +1,472 @@
...
+
+@[expose] public section
+
+namespace Cslib.Algorithms
+
+open SortOps
+
+
+/-- Merge two sorted lists using comparisons in the query monad. -/
+def mergeNaive [LinearOrder α] (x y : List α) : List α :=
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Where's the monad?

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 16 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean:101]: I see no point in mixing TimeM here. As it is @chenson2018 wanted one lightweight method. But as I also pointed out elsewhere, this would be a pointlessly thin wrapper.

If you mean the name of the function ought to change, that maybe true. I'd probably go for `complexity` or `resource`

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 15 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: This is a pointlessly thin wrapper, and more like an unnecessary indirection. I prefer to keep Prog self-contained. 

In any case, this depends on how TimeM is changed, which is probably not in scope in this PR. Also, if we really wanted to be abstract, we could really just `abbrev CostM (Cost) [AddCommMonoid Cost] := WriterT Cost Id `. This is again subject for a different PR. I just don't see the point of this extra layer of abstraction.

File: CslibTests/QueryModel/ProgExamples.lean (hunk 17 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: Lean can't infer the type parameter without this hint.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 22 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: It's a typo. It's meant to be the pure lean version. We prove that the merge Prog evaluates identically to mergeNaive. So all properties of merge related to evaluation are deduced from mergeNaive.

File: CslibTests/QueryModel/ProgExamples.lean (hunk 17 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: Concretely, lean can't use the coercion from the query type to FreeM.lift version of it.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 16 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean:101]: In general I think that we should avoid a proliferation of code in different lightweight methods. We should choose one lightweight method and one heavy-weight method (Boole) and stick with it.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 23]
```diff
@@ -0,0 +1,120 @@
...
+  | one : Arith α α
+
+def RatArithQuery_NatCost : Model (Arith ℚ) ℕ where
+  evalQuery
+    | .add x y => x + y
+    | .mul x y => x * y
+    | .neg x =>  -x
+    | .zero => (0 : ℚ)
+    | .one => (1 : ℚ)
+  cost _ := 1
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: Some comments:
* This doesn't fit the naming convention of `lowerCamelCase`
* This may as well generalize to `Arith R` for an arbitrary ring.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 24]
```diff
@@ -0,0 +1,120 @@
...
+
+open Arith in
+def ex1 : Prog (Arith ℚ) ℚ := do
+  let mut x : ℚ ← @zero ℚ
+  let mut y ← @one ℚ
+  let z ← (add (x + y + y) y)
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: Did you really mean to mix queries and arithmetic here?

File: CslibTests/QueryModel/ProgExamples.lean [hunk 25]
```diff
@@ -0,0 +1,120 @@
...
+  evalQuery
+    | .add x y => x + y
+    | .mul x y => x * y
+    | .neg x =>  -x
+    | .zero => (0 : ℚ)
+    | .one => (1 : ℚ)
+  cost _ := 1
+
+open Arith in
+def ex1 : Prog (Arith ℚ) ℚ := do
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: To prevent mixing queries and arithmetic, I suggest you write this as
```suggestion
def ex1 : Prog (Arith α) α := do
```
(_without a `Ring α` assumption_)

File: CslibTests/QueryModel/ProgExamples.lean (hunk 23 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: ProgExamples resides in the CslibTests folder. This is not part of the main library. It is meant to serve as an illustrative example.

Comment (eric-wieser) [reply CslibTests/QueryModel/ProgExamples.lean]: Illustrative examples should illustrate the best practice.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 26]
```diff
@@ -0,0 +1,207 @@
...
+
+open Prog
+
+open SortOps
+
+/--
+A purely lean version of `insertOrd`, which is shown to be extensionally equal to
+`insertOrd` when evaluated in the `SortOps` query model.
+-/
+def insertOrdNaive (x : α) (l : List α) [LinearOrder α] :=
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]:
```suggestion
def insertOrdNaive (x : α) (l : List α) [LinearOrder α] : List α :=
```

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 27]
```diff
@@ -0,0 +1,207 @@
...
+  match l with
+  | [] => [x]
+  | a :: as => if a < x then a :: insertOrdNaive x as else x :: (a :: as)
+
+lemma insertOrdNaive_mem [LinearOrder α]
+  (x y : α) (l : List α) (hx : x ∈ insertOrdNaive y l) : x = y ∨ x ∈ l := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: Wrong indents here and below, statements should wrap at 4 characters (followed by the proof at two)

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 28]
```diff
@@ -0,0 +1,207 @@
...
+namespace Algorithms
+
+open Prog
+
+open SortOps
+
+/--
+A purely lean version of `insertOrd`, which is shown to be extensionally equal to
+`insertOrd` when evaluated in the `SortOps` query model.
+-/
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: This already exists, it's [List.orderedInsert](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/Sort.html#List.orderedInsert)

File: CslibTests/QueryModel/ProgExamples.lean (hunk 24 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: Yes. Intentionally. There are no instances of notation typeclasses like `HAdd` for the Arith query  upto that point.

Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: It's a demo of how pure operations can be snuck in. The `#eval`s that existed before would show you exactly what goes wrong.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 29]
```diff
@@ -0,0 +1,207 @@
...
+          simp only [insertOrdNaive]
+          split_ifs with h_head
+          · simp only [List.pairwise_cons, ih, and_true]
+            intro a ha
+            apply insertOrdNaive_mem at ha
+            obtain (ha | ha) := ha
+            · grind
+            · grind
+          · simp only [List.pairwise_cons, List.mem_cons, forall_eq_or_imp, h₂, and_true]
+            grind
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: This also already exists, it's [List.Pairwise.orderedInsert](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/Sort.html#List.Pairwise.orderedInsert)

File: CslibTests/QueryModel/ProgExamples.lean (hunk 24 above)
Comment (eric-wieser) [reply CslibTests/QueryModel/ProgExamples.lean]: If the eval is important to the example, then keep it and use a `#guard_msgs` to demonstrate what you expect it to do. What I objected to was `-- #eval`, which is not checked by the compiler at all.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 29 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: I had to change the comparison query to LE and change insertOrd's if-then-else structure to match it. It's not quite the same.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 27 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: This lemma is gone, so this is resolved

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 26 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: This definition is gone. so this comment is resolved.

File: CslibTests/QueryModel/ProgExamples.lean (hunk 25 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: The example there is deliberate. I want to show how pure operations can be snuck in. But I have changed it as requested anyway.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 29 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: In general, the goal of a naive version is to match the iterative or recursive structure of the Prog version. In addition to simplifying proofs, this keeps them visually similar.

**Comment by Shreyas4991** [comment]
I believe I have addressed all review comments upto this comment. This comment serves as a visual checkpoint for me while addressing further review comments.

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean [hunk 30]
```diff
@@ -0,0 +1,92 @@
...
+def insertionSort (l : List α) : Prog (SortOps α) (List α) :=
+  match l with
+  | [] => return []
+  | x :: xs => do
+      let rest ← insertionSort xs
+      insertOrd x rest
+
+theorem insertionSort_sorted [LinearOrder α] (l : List α) :
+  ((insertionSort l).eval (sortModel α)).Pairwise (· ≤ ·) := by
+  induction l with
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean]: Indentation is still wrong here
```suggestion
theorem insertionSort_sorted [LinearOrder α] (l : List α) :
    ((insertionSort l).eval (sortModel α)).Pairwise (· ≤ ·) := by
  induction l with
```
same for the rest of this file.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 31]
```diff
@@ -0,0 +1,169 @@
...
+      then
+        insertHead x (a :: as)
+      else
+        let res ← insertOrd x as
+        insertHead a res
+
+lemma insertOrd_is_ListOrderedInsert [LinearOrder α] :
+  ∀ (x : α) (l : List α) ,
+    l.Pairwise (· ≤ ·) →
+      (insertOrd x l).eval (sortModel α) = l.orderedInsert (· ≤ ·) x := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: I'd argue you should generalize this (and `sortModel`) to an arbitrary relation `r` to match the sort functions in Lean, rather than to just `le`.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 32]
```diff
@@ -0,0 +1,169 @@
...
+          simp [insertOrd, sortModel, List.orderedInsert_cons, hx_head]
+        · simpa [insertOrd, sortModel, List.orderedInsert_cons, h_head, h_x] using ih h_tail_sorted
+      · have h_x : x ≤ head := le_of_not_ge h_head
+        simp [insertOrd, sortModel, List.orderedInsert_cons, h_x]
+
+
+
+lemma insertOrd_length [LinearOrder α] (x : α) (l : List α) :
+  ((insertOrd x l).eval (sortModel α)).length = l.length + 1 := by
+  induction l with
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: Indents are wrong throughout this file too.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 31 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: sounds out of scope to this PR for me. My goal is to get what is conventionally known as insertion sort into the algorithms folder which matches what has been done for mergeSort. Thus both mergeSort and insertion sort do their sorting by le for a LinearOrder.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 32 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: fixed everywhere.

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean (hunk 30 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean]: fixed

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 31 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: the LE that is being used comes from LinearOrder. Sorting only makes sense on some sort of an order relation that is at least transitive, so perhaps something weaker than linear order. So the real change that is necessary is just changing `LinearOrder` to `PreOrder` or something like that. Suitable for `good-first-PR`. It involves figuring out the right order class, the right correctness condition and changing the proofs.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean [hunk 33]
```diff
@@ -0,0 +1,96 @@
...
+  | l :: ls =>
+      let cmp : Bool ← compare (l :: ls) x
+      if cmp then
+        return true
+      else
+        listLinearSearch ls x
+
+lemma listLinearSearchM_correct_true [iDec : DecidableEq α] (l : List α) :
+    ∀ x : α, x ∈ l → (listLinearSearch l x).eval ListSearch_Nat = true := by
+  intro x x_mem_l
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: nit:
```suggestion
lemma listLinearSearchM_correct_true [DecidableEq α] (l : List α) {x : α} (hx : x ∈ l) :
    (listLinearSearch l x).eval ListSearch_Nat = true := by
```
and for a few other proofs that start with `intros`.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 34]
```diff
@@ -0,0 +1,185 @@
...
+-/
+@[ext, grind]
+structure SortOpsCost where
+  /-- `compares` counts the number of calls to `cmpLT` -/
+  compares : ℕ
+  /-- `inserts` counts the number of calls to `insertHead` -/
+  inserts : ℕ
+
+@[simp, grind]
+instance zeroSortOps : Zero SortOpsCost := ⟨0,0⟩
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I don't think putting `simp` on an instance is a good idea. Did you mean `simps`?

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 35]
```diff
@@ -0,0 +1,185 @@
...
+    simp only [and_imp]
+    intro ab_comps ab_inserts bc_comps bc_inserts
+    refine ⟨?_, ?_⟩
+    all_goals solve_by_elim [Nat.le_trans]
+  le_antisymm := by
+    intro ⟨a_comps, a_inserts⟩ ⟨b_comps, b_inserts⟩
+    simp only [SortOpsCost.mk.injEq, and_imp]
+    intro ab_comps ab_inserts ba_comps ba_inserts
+    refine ⟨?_, ?_⟩
+    all_goals solve_by_elim[Nat.le_antisymm]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: You can do this much more concisely if you pull back from the `Prod` instances. You can o this with a
```
instance : LE SortOpsCost where
  le | ⟨c₁, i₁⟩, ⟨c₂, i₂⟩ => c₁ ≤ c₂ ∧ i₁ ≤ i₂

def SortOpsCost.equivProd : ...
```
and then use
```
fast_instance% SortOpsCost.equivProd.injective.partialOrder _ sorry sorry
```
If you're not worried about the slight overhead of unpacking and unpacking, you can abbreviate further using `Equiv.partialOrder`.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 36]
```diff
@@ -0,0 +1,185 @@
...
+  nsmul := nsmul
+  nsmul_zero := by
+    intro x
+    rw [nsmul, zero_nsmul, zero_nsmul]
+    rfl
+
+  nsmul_succ := by
+    intro n x
+    rw [nsmul, succ_nsmul, succ_nsmul]
+    rfl
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Here too a pull-back would dramatically shrink this.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 37]
```diff
@@ -0,0 +1,185 @@
...
+
+
+/--
+A model of `SortOps` that uses `SortOpsCost` as the cost type for operations.
+-/
+def sortModel (α : Type) [LinearOrder α] : Model (SortOps α) SortOpsCost where
+  evalQuery q :=
+    match q with
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
  evalQuery
```
etc

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 38]
```diff
@@ -0,0 +1,185 @@
...
+    | .cmpLE x y =>
+            if x ≤ y then
+              true
+            else
+              false
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: This is a long way to write `decide (x ≤ y)` or even just `x ≤ y`

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 39]
```diff
@@ -0,0 +1,185 @@
...
+    | .insertHead x l => x :: l
+  cost q :=
+    match q with
+    | .cmpLE _ _ => ⟨1,0⟩
+    | .insertHead _ _ => ⟨0,1⟩
+
+@[grind =]
+lemma SortModel_cmpquery_iff [LinearOrder α] (x y : α) :
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
lemma sortModel_evalQuery_cmpLE_iff [LinearOrder α] (x y : α) :
```

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 40]
```diff
@@ -0,0 +1,185 @@
...
+@[grind =]
+lemma SortModel_insertHeadquery_iff [LinearOrder α] (l : List α) (x : α) :
+  (sortModel α).evalQuery (insertHead x l) = x :: l := by
+  simp [sortModel]
+
+
+lemma SortModel_addComponents (m₁ m₂ m₃ : SortOpsCost) :
+  m₁ + m₂ = m₃ ↔
+    m₁.compares + m₂.compares = m₃.compares ∧
+      m₁.inserts + m₂.inserts = m₃.inserts := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Indents are wrong here and below.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 41]
```diff
@@ -0,0 +1,185 @@
...
+  simp only [HAdd.hAdd]
+  aesop
+
+@[simp]
+lemma SortModel_add_compares (m₁ m₂ : SortOpsCost) :
+  (Add.add m₁ m₂).compares = m₁.compares + m₂.compares := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: You should never write `Add.add`, it isn't the form which lemmas are written about. This name should be `SortOpsCost.compares_add`, and you should write this lemma immediately after the instance.

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean [hunk 42]
```diff
@@ -0,0 +1,94 @@
...
+      exact h
+
+lemma insertionSort_time_compares [LinearOrder α] (head : α) (tail : List α) :
+    ((insertionSort (head :: tail)).time (sortModel α)).compares =
+      ((insertionSort tail).time (sortModel α)).compares +
+        ((insertOrd head ((insertionSort tail).eval
+          (sortModel α))).time (sortModel α)).compares := by
+  have h := congrArg SortOpsCost.compares
+    (Prog.time.bind (M := sortModel α) (insertionSort tail) (fun rest => insertOrd head rest))
+  simp only [HAdd.hAdd, Add.add] at h
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean]: This is the sign of a missing simp lemma.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 43]
```diff
@@ -0,0 +1,143 @@
...
+which can determine the input and output types of a query.
+-/
+abbrev Prog Q α := FreeM Q α
+
+/--
+The evaluation function of a program `P : Prog Q α` given a model `M : Model Q α` of `Q`
+-/
+@[simp, grind]
+def Prog.eval [AddCommMonoid Cost]
+  (P : Prog Q α) (M : Model Q Cost) : α :=
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: Indents are wrong here and throughout

File: Cslib/Foundations/Control/Monad/Free.lean [hunk 44]
```diff
@@ -223,6 +223,9 @@ lemma liftM_bind [LawfulMonad m]
     rw [FreeM.bind, liftM_liftBind, liftM_liftBind, bind_assoc]
     simp_rw [ih]
 
+instance {Q α} : Coe (Q α) (FreeM Q α) where
```
Comment (eric-wieser) [inline Cslib/Foundations/Control/Monad/Free.lean]: Are you sure this should be `Coe` and not `CoeOut` or similar? Do any of the variants save you from needing the `@` in your examples?

File: CslibTests/QueryModel/ProgExamples.lean [hunk 45]
```diff
@@ -0,0 +1,120 @@
...
+The array version of the sort operations
+-/
+inductive VecSortOps (α : Type) : Type → Type  where
+  | swap : (a : Vector α n) → (i j : Fin n) → VecSortOps α (Vector α n)
+  | cmp :  (a : Vector α n) → (i j : Fin n) → VecSortOps α Bool
+  | write : (a : Vector α n) → (i : Fin n) → (x : α) → VecSortOps α (Vector α n)
+  | read : (a : Vector α n) → (i : Fin n) → VecSortOps α α
+  | push : (a : Vector α n) → (elem : α) → VecSortOps α (Vector α (n + 1))
+
+def VecSort_WorstCase [DecidableEq α] : Model (VecSortOps α) ℕ where
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]:
```suggestion
def VecSortOps.worstCase [DecidableEq α] : Model (VecSortOps α) ℕ where
```
since def names should not have `_`s. This also lets you write `.worstCase`

File: CslibTests/QueryModel/QueryExamples.lean [hunk 46]
```diff
@@ -0,0 +1,75 @@
...
+The complexity of this query depends on the search algorithm used. This means
+we can define two separate models for modelling situations where linear search
+or binary search is used.
+-/
+inductive ListOps (α : Type) : Type → Type  where
+  | get (l : List α) (i : Fin l.length) : ListOps α α
+  | find (l : List α) (elem : α) : ListOps α ℕ
+  | write (l : List α) (i : Fin l.length) (x : α) : ListOps α (List α)
+
+def List_LinSearch_WorstCase [DecidableEq α] : Model (ListOps α) ℕ where
```
Comment (eric-wieser) [inline CslibTests/QueryModel/QueryExamples.lean]: Again, this violates the naming rules, perhaps
```suggestion
def ListOps.worstCase [DecidableEq α] : Model (ListOps α) ℕ where
```

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 16 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/QueryModel.lean:101]: I'm going to resolve this discussion since #357 is now merged which addresses my original comment.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 47]
```diff
@@ -0,0 +1,185 @@
...
+    m₁.compares ≤ m₂.compares ∧
+      m₁.inserts ≤ m₂.inserts := by
+  simp only [LE.le]
+
+end SortOpsCostModel
+
+section NatModel
+
+/--
+A model of `SortOps` that uses `ℕ` as the type for the cost of operations.
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: This docstring isn't enough; you should explain what the nat is counting

File: CslibTests/QueryModel/ProgExamples.lean (hunk 45 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean]: Fixed it. For what it is worth these names are not part of the library, just tests. They illustrate how a query and model can be defined for vectors.

Comment (eric-wieser) [reply CslibTests/QueryModel/ProgExamples.lean]: I now realize I wasn't paying attention and actually dot notation doesn't make a huge amount of sense here.

My suggested name is fine, but you could also consider `Model.vecSortOpsWorstCase` to enable dot notation, or just `vecSortOpsWorstCase` without the namespace, or `VecSortOps.Models.worstCase` or similar.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 48]
```diff
@@ -0,0 +1,176 @@
...
+def add (soc₁ soc₂ : SortOpsCost) : SortOpsCost:=
+  ⟨soc₁.compares + soc₂.compares, soc₁.inserts + soc₂.inserts⟩
+
+/-- Component-wise scalar (natural number) multiplication operation on `SortOpsCost` -/
+@[simps]
+def nsmul (n : ℕ) (soc : SortOpsCost) : SortOpsCost := ⟨n • soc.compares, n • soc.inserts⟩
+
+@[simps]
+instance AddSortOps : Add SortOpsCost where
+  add := add
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I would recommend you inline `add` directly here, which will save you from needing to simplify it every time.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 49]
```diff
@@ -0,0 +1,176 @@
...
+lemma SortModel_insertHeadquery_iff [LinearOrder α] (l : List α) (x : α) :
+    (sortModel α).evalQuery (insertHead x l) = x :: l := by
+  simp [sortModel]
+
+
+lemma SortModel_addComponents (m₁ m₂ m₃ : SortOpsCost) :
+    m₁ + m₂ = m₃ ↔
+      m₁.compares + m₂.compares = m₃.compares ∧
+        m₁.inserts + m₂.inserts = m₃.inserts := by
+  aesop
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: This lemma should probably be dropped, this is handled by the `ext` tactic already

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 50]
```diff
@@ -0,0 +1,176 @@
...
+
+lemma SortModel_leComponents (m₁ m₂ : SortOpsCost) :
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
lemma SortOpsCost.le_def (m₁ m₂ : SortOpsCost) :
```
but this lemma is now a duplicate of the one generated by `@[simps]` so you should either drop it or remove the attibute.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 51]
```diff
@@ -0,0 +1,143 @@
...
+-/
+@[simp, grind]
+def Prog.time [AddCommMonoid Cost]
+  (P : Prog Q α) (M : Model Q Cost) : Cost :=
+  match P with
+  | .pure _ => 0
+  | .liftBind op cont =>
+      let t₁ := M.cost op
+      let qval := M.evalQuery op
+      t₁ + (time (cont qval) M)
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]:
```suggestion
  (P.liftM fun x => do tick (M.cost x); return (M.evalQuery x)).time
```
where you could quite reasonably define
```
abbrev Model.timeQuery (M : Model Q Cost) (x : Q i) : TimeM Cost ι := do tick (M.cost x); return (M.evalQuery x)
```

File: CslibTests/QueryModel/ProgExamples.lean (hunk 23 above)
Comment (eric-wieser) [reply CslibTests/QueryModel/ProgExamples.lean]: This comment still applies

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 50 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: It's removed now

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 52]
```diff
@@ -0,0 +1,430 @@
...
+      set left : List α := xs.take half
+      set right : List α := xs.drop half
+      have hhalf_lt : half < xs.length := by grind
+      have hleft_le : left.length ≤ half := by grind
+      have hleft_lt_len : left.length < xs.length := by grind
+      have hright_lt_len : right.length < xs.length := by grind
+      have hleft : (mergeSort left).eval (sortModelNat α) = mergeSortNaive left := by grind
+      have hright : (mergeSort right).eval (sortModelNat α) = mergeSortNaive right := by grind
+      have hleft' :
+          FreeM.liftM (m := Id) (fun {ι} q => (sortModelNat α).evalQuery q)
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Passing `:= Id` is usually a code smell, this means you're missing an `Id.run` somewhere.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 53]
```diff
@@ -0,0 +1,430 @@
...
+      if x ≤ y then
+        let rest := mergeNaive xs' (y :: ys')
+        x :: rest
+      else
+        let rest := mergeNaive (x :: xs') ys'
+        y :: rest
+
+lemma mergeNaive_length [LinearOrder α] (x y : List α) :
+    (mergeNaive x y).length = x.length + y.length := by
+  fun_induction mergeNaive <;> try grind
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I think you should just drop this and use `List.merge`, which I think is defined identically up to `let`s anyway.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 54]
```diff
@@ -0,0 +1,430 @@
...
+
+/--
+The vanilla-lean version of `mergeSortNaive` that is extensionally equal to `mergeSort`
+-/
+def mergeSortNaive [LinearOrder α] (xs : List α) : List α :=
+  if xs.length < 2 then xs
+  else
+    let sortedLeft  := mergeSortNaive (xs.take (xs.length/2))
+    let sortedRight := mergeSortNaive (xs.drop (xs.length/2))
+    mergeNaive sortedLeft sortedRight
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Ideally we'd drop this in favor of `List.mergeSort`

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 55]
```diff
@@ -0,0 +1,430 @@
...
+
+lemma mergeSort_is_mergeSortNaive [LinearOrder α] (xs : List α) :
+    (mergeSort xs).eval (sortModelNat α) = mergeSortNaive xs := by
+  classical
+  let P : Nat → Prop :=
+    fun n => ∀ xs, xs.length = n → (mergeSort xs).eval (sortModelNat α) = mergeSortNaive xs
+  have hP : P xs.length := by
+    refine Nat.strong_induction_on (n := xs.length) ?_
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I think the dance you're trying to do here is `induction hlen : xs.length using  Nat.strong_induction_on`?

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 56]
```diff
@@ -0,0 +1,150 @@
...
+  | pure a =>
+      simp
+  | liftBind op cont' ih =>
+      specialize ih (M.evalQuery op)
+      simp_all only [time, FreeM.liftBind_bind, FreeM.liftM_liftBind, LawfulMonad.pure_bind]
+      rw [add_assoc]
+
+@[simp, grind =]
+lemma Prog.time.liftBind [AddCommMonoid Cost] (M : Model Q Cost)
+  (op : Q ι) (cont : ι → Prog Q α) :
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: Indents aren't big enough for wrapped statement here.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 57]
```diff
@@ -0,0 +1,150 @@
...
+  /-- `reduce (q : Q₁ α)` is a program `P : Prog Q₂ α` that is intended to
+  implement `q` in the query type `Q₂` -/
+  reduce : Q₁ α → Prog Q₂ α
+
+/--
+`Prog.reduceProg` takes a reduction structure from a query `Q₁` to `Q₂` and extends its
+`reduce` function to programs on the query type `Q₁`
+-/
+def Prog.reduceProg (P : Prog Q₁ α) (red : Reduction Q₁ Q₂) : Prog Q₂ α :=
+    P.liftM red.reduce
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: indents:
```suggestion
def Prog.reduceProg (P : Prog Q₁ α) (red : Reduction Q₁ Q₂) : Prog Q₂ α :=
  P.liftM red.reduce
```
also since you have no theorems about this, perhaps an `abbrev` would be better.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 52 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: No the Id.run would be simplified with Id.run_pure at this point.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 55 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: `induction hlen : xs.length using  Nat.strong_induction_on generalizing xs with`

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I changed the syntax, but I find the refine formulation shorter

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 53 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I strongly prefer not to. List.merge doesn't even produce an induction principle with `fun_induction`.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 57 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: done

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 56 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: fixed.

File: CslibTests/QueryModel/ProgExamples.lean [hunk 58]
```diff
@@ -0,0 +1,120 @@
...
+section ProgExamples
+
+inductive Arith (α : Type) : Type → Type where
+  | add (x y : α) : Arith α α
+  | mul (x y : α) : Arith α α
+  | neg (x : α) : Arith α α
+  | zero : Arith α α
+  | one : Arith α α
+
+def RatArithQuery_NatCost : Model (Arith ℚ) ℕ where
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]: Please fix this to match the naming convention.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 59]
```diff
@@ -0,0 +1,149 @@
...
+/-
+# Query model
+
+This file defines a simple query language modeled as a free monad over a
+parametric type of query operations.
+
+## Main definitions
+
+- `PureCosts`  : A typeclass that every model needs to log or cost pure monadic operations
+- `Model Q c` : A model type for a query type `Q : Type u → Type u` and cost type `c`
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: This no longer exists.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 60]
```diff
@@ -0,0 +1,149 @@
...
+namespace Algorithms
+
+/--
+A model type for a query type `QType` and cost type `Cost`. It consists of
+two fields, which respectively define the evaluation and cost of a query.
+-/
+structure Model (QType : Type u → Type u) (Cost : Type)
+  [AddCommMonoid Cost] where
+  /-- Evaluates a query `q : Q ι` to return a result of type `ι` -/
+  evalQuery : QType ι → ι
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]:
```suggestion
structure Model (QType : Type u → Type u) (Cost : Type)
    [AddCommMonoid Cost] where
  /-- Evaluates a query `q : Q ι` to return a result of type `ι` -/
  evalQuery : QType ι → ι
```
(just this line)

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 61]
```diff
@@ -0,0 +1,149 @@
...
+  Id.run <| P.liftM fun x => pure (M.evalQuery x)
+
+/--
+The cost function of a program `P : Prog Q α` given a model `M : Model Q α` of `Q`.
+The most common use case of this function is to compute time-complexity, hence the name.
+-/
+@[simp, grind]
+def Prog.time [AddCommMonoid Cost]
+    (P : Prog Q α) (M : Model Q Cost) : Cost :=
+  (P.liftM fun x => do Lean.TimeM.tick (M.cost x); return (M.evalQuery x)).time
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]:
```suggestion
  (P.liftM M.timeQuery).time
```

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 62]
```diff
@@ -0,0 +1,149 @@
...
+
+@[grind =]
+lemma Prog.time.bind_pure [AddCommMonoid Cost] (M : Model Q Cost) :
+    Prog.time (op >>= FreeM.pure) M = (Prog.time op M) := by
+  simp only [bind, FreeM.bind_pure]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: This is a weird lemma, it should instead say that `op >>= FreeM.pure = op`.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 63]
```diff
@@ -0,0 +1,149 @@
...
+
+@[grind =]
+lemma Prog.time.pure_bind
+    [AddCommMonoid Cost] (M : Model Q Cost) :
+    Prog.time (FreeM.pure x >>= m) M = (m x).time M := by
+  rfl
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: This is also a weird lemma, it should say that `FreeM.pure x >>= m = m x`; and is really just `LawfulMonad.pure_bind`

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 64]
```diff
@@ -0,0 +1,149 @@
...
+
+@[grind =]
+lemma Prog.time.bind [AddCommMonoid Cost] (M : Model Q Cost)
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]:
```suggestion
lemma Prog.time_bind [AddCommMonoid Cost] (M : Model Q Cost)
```

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 65]
```diff
@@ -0,0 +1,182 @@
...
+namespace Algorithms
+
+open Prog
+/--
+A model for comparison sorting on lists.
+-/
+inductive SortOps (α : Type) : Type → Type  where
+  /--`cmpLE x y` is intended to return `true` if `x ≤ y` and `false` otherwise.
+  The specific order relation depends on the model provided for this type-/
+  | cmpLE (x : α) (y : α): SortOps α Bool
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
  | cmpLE (x : α) (y : α) : SortOps α Bool
```

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 66]
```diff
@@ -0,0 +1,182 @@
...
+  /--`insertHead l x` is intended to return `x :: l`-/
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I think the prevailing style in Lean is 
```suggestion
  /-- `insertHead l x` is intended to return `x :: l`. -/
```
(throughout)

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 67]
```diff
@@ -0,0 +1,182 @@
...
+
+/--
+Injective mapping from SortOpsCost to a pair of ℕ
+-/
+def SortOpsCost.toProd : SortOpsCost ↪ ℕ × ℕ  where
+  toFun pair := (pair.compares, pair.inserts)
+  inj' := by
+    unfold Function.Injective
+    intro ⟨_,_⟩ ⟨_,_⟩
+    simp only [mk.injEq, Prod.mk.injEq, imp_self]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: It would be shorter to build the `Equiv` directly.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 60 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: I actually removed the newline

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 68]
```diff
@@ -0,0 +1,182 @@
...
+  apply Function.Injective.partialOrder SortOpsCost.toProd
+  · exact SortOpsCost.toProd.inj'
+  · simp [SortOpsCost.toProd]
+  · intro x y
+    simp only [SortOpsCost.toProd, Function.Embedding.coeFn_mk, Prod.mk_lt_mk, lt_def, le_def]
+    refine ⟨?_, ?_⟩
+    · rintro (⟨h_compares, h_inserts⟩ | ⟨h_compares, h_inserts⟩)
+      all_goals grind only
+    · rintro ⟨h_leq, (h | h)⟩
+      all_goals grind only
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Is this not just `rfl`?

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 69]
```diff
@@ -0,0 +1,182 @@
...
+@[inline, simps]
+def nsmul (n : ℕ) (soc : SortOpsCost) : SortOpsCost := ⟨n • soc.compares, n • soc.inserts⟩
+
+@[simps]
+instance AddSortOps : Add SortOpsCost where
+  add := add
+
+@[simps]
+instance SMulSortOps : SMul ℕ SortOpsCost where
+  smul := nsmul
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Generally speaking instances hsould not be named.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 70]
```diff
@@ -0,0 +1,182 @@
...
+    refine ⟨?_, ?_⟩
+    · rintro (⟨h_compares, h_inserts⟩ | ⟨h_compares, h_inserts⟩)
+      all_goals grind only
+    · rintro ⟨h_leq, (h | h)⟩
+      all_goals grind only
+
+/-- Component-wise addition operation on `SortOpsCost` -/
+@[inline, simps]
+def add (soc₁ soc₂ : SortOpsCost) : SortOpsCost:=
+  ⟨soc₁.compares + soc₂.compares, soc₁.inserts + soc₂.inserts⟩
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: When I said "inline" I meant "paste into the `Add` instance below"; I was asking _you_ to inline it, not asking you to ask the compiler to inline it.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 71]
```diff
@@ -0,0 +1,182 @@
...
+/--
+A model of `SortOps` that uses `SortOpsCost` as the cost type for operations.
+-/
+def sortModel (α : Type) [LinearOrder α] : Model (SortOps α) SortOpsCost where
+  evalQuery
+    | .cmpLE x y => decide (x ≤ y)
+    | .insertHead x l => x :: l
+  cost q :=
+    match q with
+    | .cmpLE _ _ => ⟨1,0⟩
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
  cost
    | .cmpLE _ _ => ⟨1,0⟩
```

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 72]
```diff
@@ -0,0 +1,182 @@
...
+    (sortModel α).evalQuery (insertHead x l) = x :: l := by
+  simp [sortModel]
+
+@[simp]
+lemma cost_cmpLT_compares [LinearOrder α] : ((sortModel α).2 (cmpLE head x)).compares = 1 := by
+  simp [sortModel]
+
+@[simp]
+lemma cost_cmpLT_inserts [LinearOrder α] :
+    ((sortModel α).2 (cmpLE head x)).inserts = 0 := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Did you mean cmpLE or cmpLT?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Changed the name to cmpLE to make insertOrd match orderedInsert. I also changed insertionSort and mergeSort. So now it is `cmpLE` everywhere. `cmpLT` would throw an error.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 71 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Done. But tbh I hate this style. It is peculiar to ML (in Haskell you don't pattern match, the guards act like and if-then-else chain). It is less readable.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 62 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: Though arguably the problem is that the simp-normal-form for FreeM is wrong.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 68 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: It is. done.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 69 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Lean names them anyway. At least this way, the names are human readable. Especially in the docs.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean [hunk 73]
```diff
@@ -0,0 +1,93 @@
...
+  | [] => return false
+  | l :: ls =>
+      let cmp : Bool ← compare (l :: ls) x
+      if cmp then
+        return true
+      else
+        listLinearSearch ls x
+
+lemma listLinearSearchM_correct_true [DecidableEq α] (l : List α) {x : α} (x_mem_l : x ∈ l) :
+    (listLinearSearch l x).eval ListSearch_Nat = true := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: Perhaps correctness should be stated as `(listLinearSearch l x).eval _ = l.contains x`?

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 69 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Also not naming the partial order instance causes an error with simps, where the only solution is to remove `simps` and lose all the component-wise order lemmas. It is probably generating the `le_def` lemma for both the `LE` instance and the `PartialOrder` instance.  Removing simps on the LE instance affects the grind proofs in the PartialOrder instance.

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 74]
```diff
@@ -0,0 +1,107 @@
...
+        insertHead x (a :: as)
+      else
+        let res ← insertOrd x as
+        insertHead a res
+
+lemma insertOrd_is_ListOrderedInsert [LinearOrder α] :
+    ∀ (x : α) (l : List α) ,
+      l.Pairwise (· ≤ ·) →
+        (insertOrd x l).eval (sortModel α) = l.orderedInsert (· ≤ ·) x := by
+  intro x l h_sorted
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: I think this would be more readable if you dropped the `intro`

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 75]
```diff
@@ -0,0 +1,107 @@
...
+  | a :: as =>
+      let cmp : Bool ← cmpLE x a
+      if cmp
+      then
+        insertHead x (a :: as)
+      else
+        let res ← insertOrd x as
+        insertHead a res
+
+lemma insertOrd_is_ListOrderedInsert [LinearOrder α] :
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: `is` isn't in the naming convention, this should be something like `insertOrd_eval_eq_orderedInsert`

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 69 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: What's the error message? It sounds like simps is flagging a genuine mistake.

If you do name instances manually, their names should start with `inst`.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 76]
```diff
@@ -0,0 +1,171 @@
...
+
+@[simps]
+instance : LE SortOpsCost where
+  le soc₁ soc₂ := soc₁.compares ≤ soc₂.compares ∧ soc₁.inserts ≤ soc₂.inserts
+
+@[simps]
+instance : LT SortOpsCost where
+  lt soc₁ soc₂ := soc₁ ≤ soc₂ ∧ (soc₁.compares < soc₂.compares ∨ soc₁.inserts < soc₂.inserts)
+
+@[simps!, grind]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
@[grind]
```
You're not defining any new data here any more, so no point adding `simps`. All the lemmas were created above.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 77]
```diff
@@ -0,0 +1,171 @@
...
+
+@[simp]
+lemma cost_cmpLT_inserts [LinearOrder α] :
+    ((sortModel α).2 (cmpLE head x)).inserts = 0 := by
+  simp [sortModel]
+
+@[simp]
+lemma cost_insertHead_compares [LinearOrder α] :
+    ((sortModel α).2 (insertHead x l)).compares = 0 := by
+  simp [sortModel]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Does putting `simps` on `def sortModel` generate all these lemmas? (you can check what it generates with `simps?` or `whatsnew in`)

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 78]
```diff
@@ -0,0 +1,147 @@
...
+## How to set up an algorithm
+
+This model is a lightweight framework for specifying and verifying both the correctness
+and complexity of algorithms in lean. To specify an algorithm, one must:
+1. Define an inductive type of queries which carries. This type must at least one index parameter
+  which denotes the output type of the query. Additionally it helps to have a parameter `α` on which
+  the index type depends. This way, any instance parameters of `α` can be used easily
+  for the output types. The signatures of `Model.evalQuery` and `Model.Cost` are fixed.
+  So you can't supply instances for the index type there.
+2. Define a `Model Q C` type instance
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]: This is no longer an `instance`.

I think you're missing the step where you choose a cost model.

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 79]
```diff
@@ -0,0 +1,147 @@
...
+
+
+## How to set up an algorithm
+
+This model is a lightweight framework for specifying and verifying both the correctness
+and complexity of algorithms in lean. To specify an algorithm, one must:
+1. Define an inductive type of queries which carries. This type must at least one index parameter
+  which denotes the output type of the query. Additionally it helps to have a parameter `α` on which
+  the index type depends. This way, any instance parameters of `α` can be used easily
+  for the output types. The signatures of `Model.evalQuery` and `Model.Cost` are fixed.
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean]:
```suggestion
  for the output types. The signatures of `Model.evalQuery` and `Model.cost` are fixed.
```

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 80]
```diff
@@ -0,0 +1,398 @@
...
+      have hhalf_lt : half < xs.length := by grind
+      have hleft_le : left.length ≤ half := by grind
+      have hleft_lt_len : left.length < xs.length := by grind
+      have hright_lt_len : right.length < xs.length := by grind
+      have hleft : (mergeSort left).eval (sortModelNat α) = mergeSortNaive left := by grind
+      have hright : (mergeSort right).eval (sortModelNat α) = mergeSortNaive right := by grind
+      have hleft' :
+          FreeM.liftM (m := Id) (fun {ι} q => (sortModelNat α).evalQuery q)
+              (mergeSort (xs.take (xs.length / 2))) =
+            mergeSortNaive (xs.take (xs.length / 2)) := by
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Flagging again that this is type-incorrect; this should be
```suggestion
          Id.run (FreeM.liftM (fun {ι} q => pure <| (sortModelNat α).evalQuery q)
              (mergeSort (xs.take (xs.length / 2)))) =
            mergeSortNaive (xs.take (xs.length / 2)) := by
```

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 81]
```diff
@@ -0,0 +1,398 @@
...
+  match x,y with
+  | [], ys => ys
+  | xs, [] => xs
+  | x :: xs', y :: ys' =>
+      if x ≤ y then
+        let rest := mergeNaive xs' (y :: ys')
+        x :: rest
+      else
+        let rest := mergeNaive (x :: xs') ys'
+        y :: rest
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: What happened to using `List.merge` here?

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean (hunk 73 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: I added a separate correctness theorem that uses these two theorems.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean [hunk 82]
```diff
@@ -0,0 +1,41 @@
...
+inductive ListSearch (α : Type) : Type → Type  where
+  | compare (a : List α) (val : α) : ListSearch α Bool
+
+
+/--
+A model of the `ListSearch` query type that assigns costs to the queries in `ℕ`
+-/
+def ListSearch.natCost [DecidableEq α] : Model (ListSearch α) ℕ where
+  evalQuery
+    | .compare l x => l.head? = some x
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean]: I recommend changing this to
```suggestion
def ListSearch.natCost [BEq α] : Model (ListSearch α) ℕ where
  evalQuery
    | .compare l x => l.head? == some x
```
since this encode a more general algorithm with user-provided equality. This also makes it harder to cheat, since while the algorithm has access to `=`, it does not have access to `==`.

The `contains` correctness theorem is then true without `DecidableEq`, though the ones with `mem` still need that assumption.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 83]
```diff
@@ -0,0 +1,171 @@
...
+/--
+A cost type for counting the operations of `SortOps` with separate fields for
+counting calls to `cmpLT` and `insertHead`
+-/
+@[ext, grind]
+structure SortOpsCost where
+  /-- `compares` counts the number of calls to `cmpLT` -/
+  compares : ℕ
+  /-- `inserts` counts the number of calls to `insertHead` -/
+  inserts : ℕ
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean:60]: It looks like this is quite a common pattern, of "just count how many times each operation was called". Perhaps we should add a TODO about autogenerating this machinery?

Another more abstract option would be to encourage using `FreeAddMonoid (SortOps α)` as the cost, then the user can write their own cost function to accumulate all the operations later; in this case it would be
```
abbref SortOpsCost := FreeAddMonoid (SortOps α)
def SortOpsCost.compares := SortOpsCost.lift fun | cmpLE _ _ => 1 | _ => 0
def SortOpsCost.inserts := SortOpsCost.lift fun | inserts Head _ _ => 1 | _ => 0
```
This gives you the additive structure for free, but not the order.

I think it's worth discussion these options in a docstring or on Zulip.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I'd rather not make this change. It has a visual purpose. It shows how to do things like define a function looking identical to the Prog version. Also List.merge has no fun_induction induction principle and needs unnecessary digressions into boolean valued comparisons, so it is a pain to work with. Working with DecidableEq everywhere is more consistent. We are doing algorithms theory here anyway. Not producing efficient code.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean (hunk 82 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean]: I think it's easier to stick with one form of equality in statements. I don't think a DecidableEq assumption is a substantial avenue to cheat since the Prog doesn't need any instances anyway. Only the theorems do since they use the model.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean]: Also, my vision is to make this usable to CS theorists, who will care more about Prop-equality and the math they can do with it. BEq is an unnecessary digression. We don't care about implementation efficiency. We care about asymptotics and the math we do to get there.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 83 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean:60]: For basic models, I want to fix cost functions in a file in the Models folder. For now I'd suggest sticking with this. We can have a discussion on zulip and handle this in a future PR.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I've not tried any of this myself, but even if `fun_induction` doesn't work, can you write your own induction principle that matches what you're doing here?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: That would be a mathlib PR. Given mathlib-PR lifecycle, I would not push for that within this PR.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 15 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/QueryModel.lean]: For other reviewers: now that we have `timeQuery` below this isn't that important. A benefit of having these separately is that it more easily allows copying the `evalQuery` between two different cost models.

@Shreyas4991, after pointing this out to me, it seems you are not actually doing this copying!

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I don't think cslib should be in the business of duplicating pure functions from Lean core.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 67 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Actually I don't need ofProd.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I'll just delete it.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: @Shreyas4991 I don't understand your meaning. Besides that this is from core, not Mathlib, we often write extensions and then later find the right place to upstream them. If there's a usability issue, let's figure out what we need instead of duplicating core.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I agree, but I have a very specific purpose here. To have a nearly identical looking function just next to the Prog version.

Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: If you want that purpose then I recommend writing
```
private theorem merge_eq :
  List.merge x y
  =
  match x,y with
  | [], ys => ys
  | xs, [] => xs
  | x :: xs', y :: ys' =>
      if x ≤ y then
        let rest := List.merge xs' (y :: ys')
        x :: rest
      else
        let rest := List.merge (x :: xs') ys'
        y :: rest
```
which avoids creating a duplicate definition.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: @chenson2018 List.merge can generate `induct` lemmas. It works if I copy-paste that definition in my file. For some reason the core version doesn't. Proving a whole induction lemma cannot be the answer since that is also pointless duplication of what the compiler should already by proving

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean (hunk 82 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean]: done

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: and fwiw, mergeSortNaive is also functionally equivalent to List.mergeSort. However I am keeping this function as it is because I want its recursive structure to match my mergeSort. It is labelled `private`. If it is considered worthwhile to match the libary's mergeSort, then I leave it to a future PR author.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 67 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: There is an Equiv structure now

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 84]
```diff
@@ -69,23 +48,23 @@ lemma merge_timeComplexity [LinearOrder α] (x y : List α) :
       simpa [sortModelNat, Lean.TimeM.pure, Nat.add_assoc, Nat.add_left_comm, Nat.add_comm]
         using (Nat.add_le_add_left ih1 1)
 
-lemma merge_is_mergeNaive [LinearOrder α] (x y : List α) :
-    (merge x y).eval (sortModelNat α) = mergeNaive x y := by
-  fun_induction mergeNaive
+lemma merge_eval_eq_list_merge [LinearOrder α] (x y : List α) :
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: The naming convention says
```suggestion
lemma merge_eval_eq_listMerge [LinearOrder α] (x y : List α) :
```

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I changed this already. Not sure why it doesn't say outdated. I'll mark it resolved

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Now it is marked outdated. I will resolve it.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 77 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Done.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 85]
```diff
@@ -0,0 +1,138 @@
...
+  · rfl
+  · intro x y
+    simp only [lt_def, le_def]
+    refine ⟨?_, ?_⟩
+    · simp only [SortOpsCost.Equiv, Equiv.coe_toEmbedding, Equiv.coe_fn_mk, Prod.mk_lt_mk]
+      rintro (⟨_, _⟩ | ⟨_, _⟩)
+      all_goals grind
+    · simp only [SortOpsCost.Equiv, Equiv.coe_toEmbedding, Equiv.coe_fn_mk, Prod.mk_lt_mk, and_imp]
+      intros
+      all_goals grind
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: is this not `rfl`?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: No. The intros and pattern destruction is important.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 86]
```diff
@@ -0,0 +1,306 @@
...
+/- I am explicitly borrowing Sorrachai's code, which can be found in
+`Cslib.AlgorithmsTheory.Lean.MergeSort.MergeSort`. But the recurrence is not needed-/
+
+open Nat (clog)
+
+/-- Key Lemma: ⌈log2 ⌈n/2⌉⌉ ≤ ⌈log2 n⌉ - 1 for n > 1 -/
+@[grind →]
+lemma clog2_half_le (n : ℕ) (h : n > 1) : clog 2 ((n + 1) / 2) ≤ clog 2 n - 1 := by
+  rw [Nat.clog_of_one_lt one_lt_two h]
+  grind
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Why duplicate it when we can just import it?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Because I want this file to be self contained. As I want every algorithms file to be.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 81 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I added a `proof_wanted` for equality with the builtin mergeSort

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean [hunk 87]
```diff
@@ -0,0 +1,76 @@
...
+    (insertionSort l).eval (sortModel α) = l.insertionSort (· ≤ ·) := by
+  induction l with simp_all [insertionSort]
+
+theorem insertionSort_sorted [LinearOrder α] (l : List α) :
+    ((insertionSort l).eval (sortModel α)).Pairwise (· ≤ ·) := by
+  simpa using List.pairwise_insertionSort _ _
+
+lemma insertionSort_length [LinearOrder α] (l : List α) :
+    ((insertionSort l).eval (sortModel α)).length = l.length := by
+  simp
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean:65]: @Shreyas4991, do you agree we should drop the last two of these three lemmas, since they're trivial from lemmas elsewhere in mathlib / core?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean:65]: Wait, the insertionSort_sorted is a correctness lemma.  I am sorry I thought you were talking about the time API lemmas

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean:65]: I think it's best to leave these lemmas be as they are. It sets a standard and when I create my attributes to build a database inside the repo, I will tag these lemmas.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean:65]: If you want to get rid of time_inserts and time_compares that's fine as long as you can golf the complexity proof. Those are somewhat extraneous.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean (hunk 85 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I tweaked this to be rfl

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 86 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I don't think this is a reasonable desire, but will defer to @chenson2018

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: These are two separate models. If we are going to decide on their fate, it is best to keep them as separate as possible

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Oh another point. You probably want to keep these lemmas private regardless of model.

Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: private lemmas can still be shared between files.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Either way. I think in this instance for lemmas of this size, and given the circumstances, it is best to keep this copy here and keep this file independent of a different mergeSort file. Once we settle on a model, only one copy will remain anyway.

Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Eric's point seems straightforwardly correct to me. Even if one of the modules is to be eliminated, I'd rather have an import rather than duplication we need to track.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean [hunk 88]
```diff
@@ -0,0 +1,83 @@
...
+  | case3 =>
+    simp_all [listLinearSearch]
+    grind
+
+-- This statement is wrong
+lemma listLinearSearchM_time_complexity_lower_bound [DecidableEq α] [Nonempty α] :
+    ∃ l : List α, ∃ x : α, (listLinearSearch l x).time ListSearch.natCost = l.length := by
+  inhabit α
+  refine ⟨[], default, ?_⟩
+  simp_all [ListSearch.natCost, listLinearSearch]
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean:79]: @Shreyas4991, flagging for you that the statement is vacuous as written

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 89]
```diff
@@ -0,0 +1,207 @@
...
+  | [], ys => return ys
+  | xs, [] => return xs
+  | x :: xs', y :: ys' => do
+      let cmp : Bool ← cmpLE x y
+      if cmp then
+        let rest ← merge xs' (y :: ys')
+        return (x :: rest)
+      else
+        let rest ← merge (x :: xs') ys'
+        return (y :: rest)
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:51]: Could instead write this as
```suggestion
  | x :: xs', y :: ys' => do
      if (← cmpLE x y : Bool) then
        return x :: ← merge xs' (y :: ys')
      else 
        return y :: ← merge (x :: xs') ys'
```
@chenson2018, do you have a preference?

File: Cslib/AlgorithmsTheory/QueryModel.lean [hunk 90]
```diff
@@ -0,0 +1,150 @@
...
+  reduce : Q₁ α → Prog Q₂ α
+
+/--
+`Prog.reduceProg` takes a reduction structure from a query `Q₁` to `Q₂` and extends its
+`reduce` function to programs on the query type `Q₁`.
+-/
+abbrev Prog.reduceProg (P : Prog Q₁ α) (red : Reduction Q₁ Q₂) : Prog Q₂ α :=
+  P.liftM red.reduce
+
+end Reduction
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/QueryModel.lean:148]: Given this PR does not use this infrastructure at all, and it is a trivial wrapper for `liftM`, I think it is best left to a subsequent PR and removed from this one.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean (hunk 88 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean:79]: It's a lemma that says linear search has worst case inputs. Maybe it ought to say it has worst case inputs for every list length n > 0, and input x. 

The idea is of course that a non trivial type has two distinct values x and y. So for any n + 1, create [y,y,...,y, x] or [y,y,...y]

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 90 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean:148]: Sure. I can add it in a later PR

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 89 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:51]: I leave it to your decisions, but I had to look twice to be sure about what I was reading inside the `return` lines in the changed version. For review simplicity and readability, I suggest leaving impure query operations outside return/pure calls

The first two lines is definitely an improvement.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 90 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean:148]: @eric-wieser : if you wish to make the change, I have no issue at all. I might only have internet intermittently for a while.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 86 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: @chenson2018 this issue is settled for no-duplication as far as this PR is concerned. 

However I also had a chance to make a good case *for* replication of definitions on Zulip. I'll drop the [link here](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/No.20functional.20induction.20on.20List.2Emerge/near/575743944). The underlying point is, the "no replication" rule requires more nuance. 

This would have applied to the mergeNaive definition for example.

File: Cslib/AlgorithmsTheory/QueryModel.lean (hunk 90 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/QueryModel.lean:148]: **For maintainers:** (@chenson2018)  One thing to note is that reduce is going to be an important definition in this approach. It will allows us to build reductions from these custom models to a word-parametrised RAM model, but also to each other. This can greatly simplify and modularise algorithm specs of more complex algorithms by allowing us to follow algorithms papers at various levels of abstraction. 

It will also allow us to define complexity theoretic reductions between different models.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 91]
```diff
@@ -0,0 +1,207 @@
...
+The vanilla-lean version of `mergeSortNaive` that is extensionally equal to `mergeSort`
+-/
+private def mergeSortNaive (xs : List α) (le : α → α → Prop) [DecidableRel le] : List α :=
+  if xs.length < 2 then xs
+  else
+    let sortedLeft  := mergeSortNaive (xs.take (xs.length/2)) le
+    let sortedRight := mergeSortNaive (xs.drop (xs.length/2)) le
+    List.merge sortedLeft sortedRight (le · ·)
+
+private proof_wanted mergeSortNaive_eq_mergeSort
```
Comment (sorrachai) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: Why is there a proof_wanted here?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: Because we don't need it for correctness but if we had this proof it would be nice because it  would connect our prog to the upstream mergeSort.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: Also proof_wanted is a valid way of saying "we can't prove this right now but it would be nice to have" in Batteries and Mathlib. It gives a target for future PRs. 

Concretely I think adding this proof in this PR would be a needless distraction. It should be up for future claimants. 

Actually, @eric-wieser  introduced this.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: @sorrachai there should be a similar proof_wanted in the TimeM version as well.

Comment (sorrachai) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: I don't follow. There is no sorry/new axiom in the TimeM version.

Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: I believe Shreyas is saying that if the `TimeM` equivalent made a similar attempt to relate to the core implementation of merge sort, which is nice but not strictly required, it would have this same `proof_wanted`.

To make sure there is no confusion since you mentioned `sorry` and axioms, I'd like to clarify that `proof_wanted` is not comparable to these. It elabs into a noop with respect the environment.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:107]: `proof_wanted` is not introducing `axiom`s or `sorry`s.  It's just a sign for future contributors that they have a ready made statement they could convert into a theorem and prove. It originated in Batteries as a way to declare certain api lemmas as desirable but unproved so far. It allows a library to add statements that they would be happy to see proven in the future. A `proof_wanted` statement can't be used downstream.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 89 above)
Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:51]: I'm pretty neutral here.

Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean:51]: Let's leave it as is then for now.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean (hunk 88 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean:79]: Yes, this needs to quantify over all possible list lengths

**Comment by eric-wieser** [comment]
Closing in favor of #372
